US07410966B2
b) 5-Chloro-4-methylpyridine-2,3-diamine
The title compound was prepared by reduction of 2-amino-5-chloro-4-methyl-3-nitropyridine (prepared according to the route described in Example 206) using Raney Nickel as described above.

reactant | 2-amino-5-chloro-4-methyl-3-nitropyridine | NC1=NC=C(C(=C1[N+](=O)[O-])C)Cl | C6H6ClN3O2
catalyst | Raney Nickel | [Ni] | Ni
product | 5-Chloro-4-methylpyridine-2,3-diamine | ClC=1C(=C(C(=NC1)N)N)C | C6H8ClN3
